US09233979B2
To a 50 mL round bottom flask charged with tert-butyl(6-(((benzyloxy)carbonyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate (225 mg, 0.344 mmol) in ethyl acetate (5 ml) and methanol (5 ml) was added palladium on carbon (73.3 mg, 0.069 mmol). The flask was evacuated and back-filled with hydrogen gas using an attached balloon. This procedure was attempted a further two times. The reaction mixture was stirred under a hydrogen atmosphere at room temperature for 16 h. The palladium was filtered off by passing the reaction mixture through celite and washing through with ethyl acetate. The volatiles were removed in vacuo to afford crude tert-butyl(6-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate (159 mg, 0.306 mmol, 89% yield) which was taken forward without purification. MS ESI calc'd. For C32H34N5O [M+H]+ 520. found 520.

reactant | tert-butyl(6-(((benzyloxy)carbonyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate | 0.344 mmol, 225 mg | C(C)(C)(C)OC(N(CC)C1=NN(C2=C1C=NC(=C2)NC(=O)OCC2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C40H39N5O4
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium on carbon | 0.069 mmol, 73.3 mg | [Pd] | Pd
product | tert-butyl(6-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate | 0.306 mmol, 159 mg, 89% yield | C(C)(C)(C)OC(N(CC)C1=NN(C2=C1C=NC(=C2)N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C32H33N5O2
